US04572912
Hydrogen gas was passed for 2 hours through a mixture of 3.6 g of 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one, 1 g of 10% w/w palladium-on-carbon and 100 ml of methanol at room temperature under atmospheric pressure. The catalyst was then removed by filtration and the filtrate was condensed by evaporation under reduced pressure. The residue was subjected to silica gel column chromatography, eluted with a 2:1 by volume mixture of hexane and ethyl acetate, and the resulting crude product was recrystallized from acetone, to yield 6-acetoxy-2-(4-aminophenoxymethyl)-2,5,7,8-tetramethylchroman-4-one. Its melting point was 177°-178° C.

reactant | Hydrogen | [H][H] | H2
reactant | 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 3.6 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C | C22H23NO7
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 6-acetoxy-2-(4-aminophenoxymethyl)-2,5,7,8-tetramethylchroman-4-one | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)N)=O)C | C22H25NO5
